US08604029B2
Conc. HCl (6 mL, 65.7 mmol) was added to a solution of 1-[4-(2-benzyloxy-ethoxy)-pyridin-2-yl]-4-(4-nitrophenyl)-piperazine-(0.8 g, 1.84 mmol) in TFA (10 mL) at r.t. followed by heating to 70-75° C. for 7 h. The excess TFA and HCl were evaporated, the residue diluted with water and basified with saturated aq. sodium bicarbonate solution to pH 8-9 and extracted with dichloromethane. The organic layer was washed with water followed by brine solution and dried over sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was triturated with petroleum ether to afford 2-{2-[4-(4-nitrophenyl)-piperazin-1-yl]-pyridin-4-yloxy}-ethanol (0.5 g, 84%) as a solid.

reactant | HCl | 65.7 mmol, 6 mL | Cl | ClH
reactant | 1-[4-(2-benzyloxy-ethoxy)-pyridin-2-yl]-4-(4-nitrophenyl)-piperazine- | 1.84 mmol, 0.8 g | C(C1=CC=CC=C1)OCCOC1=CC(=NC=C1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C24H26N4O4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-{2-[4-(4-nitrophenyl)-piperazin-1-yl]-pyridin-4-yloxy}-ethanol | 0.5 g, 84% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C1=NC=CC(=C1)OCCO | C17H20N4O4
